### PR TITLE
lemmas for within and locally'

### PR DESCRIPTION
**Pull request by mkerjean**
A few lemmas for within.

### CODE REVIEW

File: theories/topology.v [hunk 1]
```diff
@@ -1852,6 +1852,39 @@ Typeclasses Opaque locally'.
 Canonical locally'_filter_on (T : topologicalType)  (x : T) :=
   FilterType (locally' x) (locally'_filter _).
 
+
+Lemma flimS {T U : topologicalType} {f : T -> U}:
+  forall (F G: set (set T)), (G `=>` F) -> (f @ G `=>` f @ F).
+Proof. by move => F G H A fFA ; exact ((H (preimage f A)) fFA). Qed.
```
Comment (affeldt-aist) [inline theories/topology.v:1858]: This lemma may be written as follows (it actually appears in PR #177 as a copy of a lemma that was in PR #174)

Lemma flim_incl (T U : Type) (f : T -> U) (F G : set (set T)) :
  G `=>` F -> f @ G `=>` f @ F.
Proof. move=> GF ? ?; exact: GF. Qed.

File: theories/topology.v [hunk 2]
```diff
@@ -1852,6 +1852,39 @@ Typeclasses Opaque locally'.
...
+
+
+Lemma flim_within_filter {T U : topologicalType} {f : T -> U} (F : set (set T)) {FF: (Filter F) }
+      (G : set (set U)): forall (D : set T), ((f @ F) --> G) -> ((f @ within D F) --> G).
```
Comment (affeldt-aist) [inline theories/topology.v:1862]: This lemma also can be expressed at the level of `Type` (and proved `by move=> ?; exact: (flim_trans (flim_incl (flim_within _))).`).

File: theories/topology.v [hunk 3]
```diff
@@ -1852,6 +1852,39 @@ Typeclasses Opaque locally'.
...
+  move => D ; rewrite /flim !filter_of_filterE.
+  have lem : (f @ within D F) `=>` (f @ F).
+  by apply: flimS; apply: flim_within.  
+  move => fFG; apply: flim_trans. 
+  by apply: (flimS lem).
+  by [].
+Qed. 
+
+
+Lemma cvg_within {T U : topologicalType} (f : T -> U) (F: set (set T)) (D: set T):
```
Comment (affeldt-aist) [inline theories/topology.v:1873]: Can't `T` be generalized to `Type`?

File: theories/topology.v [hunk 4]
```diff
@@ -1852,6 +1852,39 @@ Typeclasses Opaque locally'.
...
+  (Filter F) -> cvg (f @ F) -> cvg (f @ within D F).
+Proof.
+  move => FF /cvg_ex [l H].
+  apply/cvg_ex; exists l. 
+  by apply: flim_within_filter.
+Qed.
+
+
+Lemma locally_locally' {T : topologicalType}:
+  forall (x : T), (locally' x) `=>` (locally x).
```
Comment (affeldt-aist) [inline theories/topology.v:1883]: We can remove parentheses around in the `=>` expression.

File: theories/topology.v (hunk 1 above)
Comment (mkerjean) [reply theories/topology.v:1858]: If it appears in PR #177 I should delete it then ?

Comment (affeldt-aist) [reply theories/topology.v:1858]: No, I remove it from PR #177 because it is not used there.

Comment (CohenCyril) [reply theories/topology.v:1858]: why is it named `flimS`, `S` is generally used for "subset" but `flim` is actually an inclusion of filter. This one should rather be named `flim_map` or `subset_filtermap`.

File: theories/topology.v (hunk 3 above)
Comment (mkerjean) [reply theories/topology.v]: ok

File: theories/topology.v (hunk 4 above)
Comment (mkerjean) [reply theories/topology.v]: ok

File: theories/topology.v (hunk 2 above)
Comment (mkerjean) [reply theories/topology.v:1862]: done
